US07566712B2
Y. 4-(3-chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-isopropylpyrimidine
Dissolve 4-chloro-6-(3-chloro-4-fluorophenyl)-2-isopropyl-pyrimidine (56 mg, 0.2 mmoles) and 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine (46 mg, 0.2 mmoles) in DMA (1.5 mL) under nitrogen atmosphere. Add anhydrous powdered K2CO3 (55 mg, 0.4 mmoles) to this mixture and heat at 120° C. for 18 hours. Cool, dilute with water (5 mL), extract with EtOAc (3×2 mL) and dry over MgSO4. Filter, and concentrate under vacuum to afford crude product and purify by flash column chromatography using 7% EtOAc/hexane to afford the title product as colorless viscous oil. NMR (CDCl3) δ 1.33 (6H, d, J=1.8), 3.05 (1H, m), 3.40 (4H, m), 3.87 (4H, m), 6.68 (1H, s), 7.03 (1H, m), 7.19 (1H, t), 7.89 (2H, m), 8.07 (1H, d, J=2.3), 8.45 (1H, m). Mass spec m/z=480.22.

reactant | 4-chloro-6-(3-chloro-4-fluorophenyl)-2-isopropyl-pyrimidine | 0.2 mmoles, 56 mg | ClC1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)C(C)C | C13H11Cl2FN2
reactant | 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine | 0.2 mmoles, 46 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | K2CO3 | 0.4 mmoles, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 5 mL | O | H2O
product | 4-(3-chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-isopropylpyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C(C)C | C23H22ClF4N5
